US07858640B2
2-(4-methanesulfonylbenzyl)-3-oxopentanoic Acid Ethyl Ester
A suspension of potassium tert-butoxide (3.9 g) in anhydrous tetrahydrofuran (60 mL) at 0° C. was treated with a mixture of tert-butanol (0.15 mL) and 3-oxopentanoic acid ethyl ester (5.0 g). The mixture was warmed to room temperature and after 30 minutes a solution of 1-bromomethyl-4-methanesulfonylbenzene (8.6 g) in tetrahydrofuran (20 mL) was added and the resulting mixture heated at 70° C. for 17 hours. The mixture was cooled to room temperature and diluted with water (20 mL) and this mixture was extracted with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified, by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (1:0 to 4:1 by volume) to afford title compound as a white solid, 3.6 g.

reactant | potassium tert-butoxide | 3.9 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 0.15 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxopentanoic acid ethyl ester | 5.0 g | C(C)OC(CC(CC)=O)=O | C7H12O3
reactant | 1-bromomethyl-4-methanesulfonylbenzene | 8.6 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-(4-methanesulfonylbenzyl)-3-oxopentanoic Acid Ethyl Ester | C(C)OC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C15H20O5S
